US04058559
Step (C) 4(4-Fluorobenzoyl)-2,3-dichlorophenoxy acetic acid
Into a solution of 1.4 g. (0.06 g. atom) of sodium in 200 ml. of absolute alcohol, 16.0 g. (0.056 mole) of 4(4-fluorobenzoyl)-2,3-dichlorophenol was added and the mixture was stirred for thirty minutes at room temperature. The excess of alcohol was vacuum removed and the residue was washed with ether to obtain the sodium salt. The sodium salt of 4(4-fluorobenzoyl)-2,3-dichlorophenol was dissolved in 200 ml. of ethanol and 10.5 g. (0.06 mole) of ethyl bromoacetate was added and the reaction mixture was refluxed for 16 hours, filtered and the solvent was removed in vacuo. The residue was triturated with pet. ether and filtered to obtain a solid product. The product obtained was dissolved in 150 ml. ethanol and 50 ml. of 20% NaOH aqueous solution was added. The reaction mixture was refluxed for 1/2 hour and the solvent was partially removed in vacuo. The residue was dissolved in hot water and filtered. The hot filtrate was acidified with concentrated hydrochloric acid at 60° C. The resulting precipitate was collected by filtration and washed with water. Recrystallization from dichloroethane afforded 8.0 g. (47%) of the product; m.p. 174°-176°.

reactant | sodium | [Na] | Na
reactant | 4(4-fluorobenzoyl)-2,3-dichlorophenol | FC1=CC=C(C(=O)C2=C(C(=C(C=C2)O)Cl)Cl)C=C1 | C13H7Cl2FO2
reactant | ethyl bromoacetate | 0.06 mole | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4(4-Fluorobenzoyl)-2,3-dichlorophenoxy acetic acid | FC1=CC=C(C(=O)C2=C(C(=C(OCC(=O)O)C=C2)Cl)Cl)C=C1 | C15H9Cl2FO4
